US04506079
A solution of 4'-isopropylaminomethyl-1-p-toluenesulfonyl-5-bromo-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]dioxolane (100 parts) dissolved in pyridine (343 parts) is prepared and placed in a three necked flask equipped with a stirrer and a thermometer. Benzoyl chloride (35 parts) is added dropwise at 0° C. to 5° C. After standing at room temperature for 14 hours, the reaction mixture is evaporated to remove pyridine at below 70° C. Obtained residue is dissolved in dichloromethane (300 parts) and washed three times with water (50 parts). Aqueous washings are combined and washed with dichloromethane (50 parts). Dichloromethane solution and dichloromethane washing are combined, washed with water (30 parts), are dried over anhydrous sodium sulfate. After 1 hour, the drying agent is removed by filtration, and obtained filtrate is concentrated to dryness under reduced pressure. Obtained residue (132 parts) is dissolved in dichloromethane (270 parts), allowed to stand for half an hour with active charcoal (30 parts), and filtered through Florisil filter-bed. The resulting filtrate is concentrated under reduced pressure to dryness at below 30° C. and the obtained residue is triturated in a small amount of a mixture of benzene and dichloromethane to give amorphous powder. The product is collected by filtration and dried to give 4'-(N-isopropyl-N-benzoylaminomethyl)-1-p-toluenesulfonyl-5-bromo-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]dioxolane (111 parts) in 91.5% yield.

reactant | 4'-isopropylaminomethyl-1-p-toluenesulfonyl-5-bromo-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]dioxolane | C(C)(C)NCC1OC2(OC1)C=1C=CN(C1CCC2Br)S(=O)(=O)C2=CC=C(C=C2)C | C21H27BrN2O4S
reactant | Benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4'-(N-isopropyl-N-benzoylaminomethyl)-1-p-toluenesulfonyl-5-bromo-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]dioxolane | 91.5% yield | C(C)(C)N(C(C1=CC=CC=C1)=O)CC1OC2(OC1)C=1C=CN(C1CCC2Br)S(=O)(=O)C2=CC=C(C=C2)C | C28H31BrN2O5S
